US06803380B1
1-(4-ethoxy-phenyl)-5-(4-methylsulfonyl-phenyl)-3-trifluoromethyl-1H-1,2,4-triazole
A mixture of 1-(4-hydroxy-phenyl)-5-(4-methylsulfonyl-phenyl)-3-trifluoromethyl-1H-1,2,4-triazole (4 g, 10.4 mmol), KOH (1.5 g, 26.8 mmol) and DMF (40 ml) was stirred at room temperature for 1 h. Then diethylsulfate (1.6 ml, 12.2 mmol) was added, the reaction mixture stirred at room temperature for 13 h, NH4OH (20 ml) added and the mixture poured into water (1 l). The precipitate was filtered, washed several times with water and dried. Recrystallization from ethanol yielded a white solid (3.7 g, 88%).

reactant | 1-(4-hydroxy-phenyl)-5-(4-methylsulfonyl-phenyl)-3-trifluoromethyl-1H-1,2,4-triazole | 10.4 mmol, 4 g | OC1=CC=C(C=C1)N1N=C(N=C1C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F | C16H12F3N3O3S
reactant | KOH | 26.8 mmol, 1.5 g | [OH-].[K+]
reactant | diethylsulfate | 12.2 mmol, 1.6 ml | C(C)OS(=O)(=O)OCC | C4H10O4S
reactant | NH4OH | 20 ml | [NH4+].[OH-]
solvent | water | 1 l | O | H2O
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 1-(4-ethoxy-phenyl)-5-(4-methylsulfonyl-phenyl)-3-trifluoromethyl-1H-1,2,4-triazole | 3.7 g, 88% | C(C)OC1=CC=C(C=C1)N1N=C(N=C1C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F | C18H16F3N3O3S
